US06537994B2
1-Hexyl-3-[2-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-pyridin-3-yl]-urea
N-{2-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-3-pyridinyl}-N′-hexylurea (0.15 g, 0.197 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.09 g, 0.173 mmol).

reactant | N-{2-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-3-pyridinyl}-N′-hexylurea | 0.197 mmol, 0.15 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3=NC=CC=C3NC(=O)NCCCCCC)C=C2)O)C=C1 | C45H57N5O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-Hexyl-3-[2-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-pyridin-3-yl]-urea | 0.173 mmol, 0.09 g | C(CCCCC)NC(=O)NC=1C(=NC=CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H39N5O4
